US07598232B2
(E)-2,4,6-trimethoxystyryl-3(2-acetoxypropionamido)-4-methoxybenzylsulfone
A solution of 2-acetoxypropionyl chloride (10 mmol) and (E)-2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone (10 mmol) was reacted according to General Method A. The product obtained was purified by column chromatography to give the desired product in 68.2% yield. (m.p. 179-180° C.)

reactant | 2-acetoxypropionyl chloride | 10 mmol | C(C)(=O)OC(C(=O)Cl)C | C5H7ClO3
reactant | (E)-2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone | 10 mmol | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)N)S(=O)(=O)C(C2=CC(=C(C=C2)OC)N)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H44N2O10S
product | (E)-2,4,6-trimethoxystyryl-3(2-acetoxypropionamido)-4-methoxybenzylsulfone | 68.2% yield | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)NC(C(C)OC(C)=O)=O)S(=O)(=O)C(C2=CC(=C(C=C2)OC)NC(C(C)OC(C)=O)=O)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C48H56N2O16S
